US07060827B2
In like manner to the preparation of 5-fluoro-N4-(3-hydroxyphenyl)-N2-[4-(3-phenyl-1,2,4-oxadiazol-5-yl)methyleneoxyphenyl]-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine, 4-amino-m-cresol hydrogenchloride salt, and diisopropylethylamine were reacted to provide N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N4-(3-hydroxy-5-methylphenyl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.06 (s, 1H), 8.94 (s, 1H), 8.11 (s, 1H), 7.86 (d, 1H, J=3.9 Hz), 7.21–7.15 (m, 2H), 7.03 (d, 1H, J=8.1 Hz), 6.59 (bd, 2H, J=8.7 Hz), 6.52 (dd, 1H, J=3.0 and 8.1 Hz), 4.17 (s, 4H), 2.05 (s, 3H); LCMS: purity: 99%; MS (m/e): 369(MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 4-amino-m-cresol hydrogenchloride salt | Cl.NC=1C(=CC(=CC1)O)C
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N4-(3-hydroxy-5-methylphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)N(C1=NC(=NC=C1F)N)C1=CC(=CC(=C1)C)O | C19H17FN4O3
